US07700657B2
(i) 3-((E)-1-Ethylbut-1-en-3-ynyl)phenol
1 g (3.5 mmol) of tert-butyl-[3-((E)-1-ethylbut-1-en-3-ynyl)phenoxy]dimethylsilane is dissolved in 50 ml of THF, and 3.8 ml (38 mmol) of a 1.0 M solution of tetrabutylammonium fluoride are added drop by drop. The mixture is stirred for 30 minutes, then treated with a saturated solution of ammonium chloride and extracted with ethyl acetate. A yellow oil is obtained (m=690 mg; Y=100%).

reactant | tert-butyl-[3-((E)-1-ethylbut-1-en-3-ynyl)phenoxy]dimethylsilane | 3.5 mmol, 1 g | C(C)(C)(C)[Si](C)(C)OC1=CC(=CC=C1)\C(=C\C#C)\CC | C18H26OSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-((E)-1-Ethylbut-1-en-3-ynyl)phenol | C(C)/C(=C\C#C)/C=1C=C(C=CC1)O | C12H12O
